US08633173B2
N-Methyl-N-(2-{[2-(7-morpholin-4-yl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino]-methyl}-phenyl)-methanesulfonamide was prepared from N-{2-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-phenyl}-N-methyl-methanesulfonamide (100.0 mg, 0.2733 mmol) and 7-morpholin-4-yl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ylamine (75.0 mg, 0.304 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (25.0 mg, 0.0457 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a tan foam (0.019 g, 12%). MP=118-135° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 7.81 (d, J=6.8 Hz, 1H), 7.55-7.50 (m, 1H), 7.37-7.28 (m, 5H), 7.07 (d, J=7.8 Hz, 1H), 6.67 (t, J=7.0 Hz, 1H), 6.62 (s, 1H), 6.36 (d, J=7.4 Hz, 1H), 5.26-5.20 (m, 1H), 4.72 (d, J=5.1 Hz, 2H), 3.70 (br s, 4H), 3.31 (s, 3H), 3.01 (s, 3H), 2.91-2.50 (m, 9H), 2.15-2.00 (m, 2H), 1.53-1.35 (m, 2H). MS=576 (MH)+.

reactant | N-{2-[(2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino)-methyl]-phenyl}-N-methyl-methanesulfonamide | 0.2733 mmol, 100.0 mg | ClC1=NN2C(C(=CC=C2)NCC2=C(C=CC=C2)N(S(=O)(=O)C)C)=N1 | C15H16ClN5O2S
reactant | 7-morpholin-4-yl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ylamine | 0.304 mmol, 75.0 mg | N1(CCOCC1)C1CCC2=C(CC1)C=C(C=C2)N | C15H22N2O
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0457 mmol, 25.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N-Methyl-N-(2-{[2-(7-morpholin-4-yl-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ylamino)-[1,2,4]triazolo[1,5-a]pyridin-8-ylamino]-methyl}-phenyl)-methanesulfonamide | CN(S(=O)(=O)C)C1=C(C=CC=C1)CNC=1C=2N(C=CC1)N=C(N2)NC=2C=CC1=C(CCC(CC1)N1CCOCC1)C2 | C30H37N7O3S
